US09402841B2
Step B: (S)-tert-butyl 3-((6-cyano-1,7-naphthyridin-8-yl)oxy)pyrrolidine-1-carboxylate
A solution of (S)-tert-butyl 3-((6-bromo-1,7-naphthyridin-8-yl)oxy)pyrrolidine-1-carboxylate (1400 mg, 3.55 mmol), zinc cyanide (834 mg, 7.1 mmol) and N1,N1,N2,N2-tetramethylethane-1,2-diamine (0.106 mL, 0.71 mmol) in DMSO (9 mL) was degassed with nitrogen for 5 minutes. Xantphos (206 mg, 0.355 mmol) and Pd2(dba)3 (325 mg, 0.355 mmol) were added and the mixture was heated in a microwave reactor at 160° C. for 15 minutes. The reaction mixture was diluted with EtOAc and washed with water (2×). The organic layer was separated and concentrated in vacuo. The crude product was purified by silica column chromatography to give the title compound as a yellow solid (181 mg, 15%).

reactant | (S)-tert-butyl 3-((6-bromo-1,7-naphthyridin-8-yl)oxy)pyrrolidine-1-carboxylate | 3.55 mmol, 1400 mg | BrC=1C=C2C=CC=NC2=C(N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C17H20BrN3O3
reactant | N1,N1,N2,N2-tetramethylethane-1,2-diamine | 0.71 mmol, 0.106 mL | CN(CCN(C)C)C | C6H16N2
reactant | Xantphos | 0.355 mmol, 206 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
solvent | DMSO | 9 mL | CS(=O)C | C2H6OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc cyanide | 7.1 mmol, 834 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | Pd2(dba)3 | 0.355 mmol, 325 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | (S)-tert-butyl 3-((6-cyano-1,7-naphthyridin-8-yl)oxy)pyrrolidine-1-carboxylate | 181 mg, 15% | C(#N)C=1C=C2C=CC=NC2=C(N1)O[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C18H20N4O3
